US08039460B2
Step B: N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(2-oxo-1,2,4,5-tetrahydro-3H-1,3-benzodiazepin-3-yl)piperidine-1-carboxamide
Triethylamine (50 μL, 0.358 mmol) was added to a solution of the bis hydrochloride salt of (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine (60 mg, 0.143 mmol) and 1,1′-carbonyldiimidazole (41 mg, 0.25 mmol) in tetrahydrofuran (3 mL) at 0° C. After 25 min, the hydrochloride salt of 3-piperidin-4-yl-1,3,4,5-tetrahydro-2H-1,3-benzodiazepin-2-one (40 mg, 0.143 mmol) and dichloromethane (3 mL) were added and the mixture was heated to 60° C. After 16 h, the reaction mixture was allowed to cool to ambient temperature and concentrated. Purification by reverse phase HPLC (C-18, 10% acetonitrile/water→100% acetonitrile with 0.1% trifluoroacetic acid) gave the title compound (53 mg). MS 618.2572 (M+1).

reactant | Triethylamine | 0.358 mmol, 50 μL | C(C)N(CC)CC | C6H15N
reactant | (6S,9R)-6-(2,3-difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-amine | 0.143 mmol, 60 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)N | C15H15F5N4
reactant | 1,1′-carbonyldiimidazole | 0.25 mmol, 41 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-piperidin-4-yl-1,3,4,5-tetrahydro-2H-1,3-benzodiazepin-2-one | 0.143 mmol, 40 mg | N1CCC(CC1)N1C(NC2=C(CC1)C=CC=C2)=O | C14H19N3O
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | N-[(6S,9R)-6-(2,3-Difluorophenyl)-3-(2,2,2-trifluoroethyl)-6,7,8,9-tetrahydro-5H-[1,2,4]triazolo[4,3-a]azepin-9-yl]-4-(2-oxo-1,2,4,5-tetrahydro-3H-1,3-benzodiazepin-3-yl)piperidine-1-carboxamide | 53 mg | FC1=C(C=CC=C1F)[C@@H]1CC[C@H](C=2N(C1)C(=NN2)CC(F)(F)F)NC(=O)N2CCC(CC2)N2C(NC1=C(CC2)C=CC=C1)=O | C30H32F5N7O2
